US06897224B2
1-(Quinolin-5-ylamino)-4-methyl-4-phenyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 1, 300 mg (1.22 mmol) of 2-(2-methyl-2-phenylpropyl)-2-(trifluoromethyl)oxirane and 882 mg (6.12 mmol) of 5-aminoquinoline are reacted. After chromatography on silica gel with hexane-ethyl acetate (0-75%), 85 mg of product is obtained.

reactant | 2-(2-methyl-2-phenylpropyl)-2-(trifluoromethyl)oxirane | 1.22 mmol, 300 mg | CC(CC1(OC1)C(F)(F)F)(C)C1=CC=CC=C1 | C13H15F3O
reactant | 5-aminoquinoline | 6.12 mmol, 882 mg | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-(Quinolin-5-ylamino)-4-methyl-4-phenyl-2-(trifluoromethyl)pentan-2-ol | 85 mg | N1=CC=CC2=C(C=CC=C12)NCC(CC(C)(C1=CC=CC=C1)C)(O)C(F)(F)F | C22H23F3N2O
